data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_296968_1,[C:1](/[C:2]([C:4]([H:19])([H:20])[H:21])=[N:7]/[H:15])([C:3]([H:16])([H:17])[H:18])([C:5]([O:8][H:10])([O:9][H:14])[H:11])[N:6]([H:12])[H:13]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([N:7]([H:14])[H:15])[H:11])([C:3]([H:16])([H:17])[H:18])([C:5]([O:8][H:10])=[O:9])[N:6]([H:12])[H:13],45.72404249998357
MR_669965_2,[C:1](/[C:7](=[C:4](/[C:2]([C:3]([N:5]([H:10])[H:11])=[O:9])=[O:8])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@@:7]1([H:14])[C:2](=[O:8])[C@@:4]1([C:3]([N:5]([H:10])[H:11])=[O:9])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17],68.72066249995655
MR_168590_1,[N:1]([N:3]([H:8])[H:9])([C:4]1([H:12])/[C:2](=[N:5]/[H:10])[N:6]1[H:11])[H:7]>>[N:1]([N:3]([H:8])[H:9])([C:4](/[C:2](=[N:5]/[H:10])[H:12])=[N:6]\[H:11])[H:7],59.1029699999838
MR_463935_2,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[C:6]([C:3]([H:17])([H:18])[H:19])([C:5](=[O:9])[H:12])[H:13])[O:8][H:11])[O:7][H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:13])[O:8][H:11])([C:5](=[O:9])[H:12])[O:7][H:10],47.261417500025686
MR_502802_0,[C:1]([C:2]([O:7][C:5]([C:4]([H:18])([H:19])[H:20])=[O:9])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[O:8][H:10]>>[C:1]([C:2]([O:7][C:5]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[O:9][H:10])([H:13])[H:14])([N:6]([H:11])[H:12])=[O:8],67.30564999999785
MR_69575_0,[C:1](/[C:5]([C:3]([H:15])([H:16])[H:17])=[C:4](\[C:2]([H:12])([H:13])[H:14])[O:6][H:8])([O:7][H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@:5]([C:3]([H:15])([H:16])[H:17])([C@@:4]([C:2]([H:12])([H:13])[H:14])([O:6][H:8])[H:9])[O:7]1,71.07629750000157
MR_504537_2,[C:1](/[C:4]([C:2]([C:3]([N:5]([H:14])[H:15])=[O:10])([O:7][H:12])[O:9][H:11])=[N:8]/[H:16])(=[O:6])[H:13]>>[C:1]([C:3]([N:5]([H:14])[H:15])=[O:10])(/[C:4]([C:2]([O:7][H:12])=[O:9])=[N:8]/[H:16])([O:6][H:11])[H:13],46.69415749995977
MR_687380_1,[C:1](/[C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])=[N:6]/[H:11])([O:5][H:8])([H:12])[H:13]>>[C:1](=[C:3](/[C:2]([N:4]([H:9])[H:10])=[O:7])[N:6]([H:8])[H:11])(\[O:5][H:12])[H:13],69.47617250001088
MR_190129_0,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[N:7]\[C:2]([H:14])([H:15])[H:16])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]1[C:4]([N:5]([H:9])[H:10])([O:6][H:8])[N:7]1[C:2]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13],62.54417999999888
MR_468247_1,[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])=[O:8])([N:5]([H:12])[H:13])([O:6][O:7][H:9])[H:11]>>[C:1]1([N:5]([H:12])[H:13])([H:11])[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])([O:6][O:7][H:9])[O:8]1,58.16234750000447
MR_427279_0,[C:1]1([C:2]([N:6]([C:5]([H:19])([H:20])[H:21])/[N:8]=[N:9]/[H:12])([H:13])[H:14])([N:7]([H:10])[H:11])[C:3]([H:15])([H:16])[C:4]1([H:17])[H:18]>>[C:1]1(=[N:7]\[H:11])\[C:2]([H:13])([H:14])[N:6]([C:5]([H:19])([H:20])[H:21])[N:8]([N:9]([H:10])[H:12])[C:4]([H:17])([H:18])[C:3]1([H:15])[H:16],68.40189250004798
MR_598921_2,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[C:7](\[C:5]([H:21])([H:22])[H:23])[H:11])[O:8][O:9][H:10]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[C:6]([C:4]([H:18])([H:19])[H:20])([O:8][O:9][H:10])[C:7]1([C:5]([H:21])([H:22])[H:23])[H:11],69.80686499996068
MR_706605_0,[C:1](/[C:5](=[C:6]([C:2]([H:19])([H:20])[H:21])\[C:4](=[C:7](/[C:3]([H:22])([H:23])[H:24])[N:9]([H:14])[H:15])[N:8]([H:12])[H:13])[O:10][H:11])([H:16])([H:17])[H:18]>>[C:1]([C:5]1([O:10][H:11])[C:6]([C:2]([H:19])([H:20])[H:21])=[C:4]([N:8]([H:12])[H:13])[C:7]1([C:3]([H:22])([H:23])[H:24])[N:9]([H:14])[H:15])([H:16])([H:17])[H:18],29.772364999987104
MR_76815_0,[C:1]1([O:5][H:7])([H:8])[C:3]([O:4][C:2]([H:10])([H:11])[H:12])([H:9])[O:6]1>>[C:1]([C:3]([O:4][C:2]([H:10])([H:11])[H:12])=[O:6])([O:5][H:7])([H:8])[H:9],50.04563499995172
MR_441826_0,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[N:4]([N:8]=[C:5]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[H:9])([H:14])([H:15])[H:19]>>[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[C:5]([N:6]([H:10])[H:11])([N:7]([H:12])[H:13])/[N:8]=[N:4]/[H:9])([H:14])([H:15])[H:19],50.19121499997652
MR_704681_1,[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])=[C:4]([N:7]([H:13])[H:14])/[C:8](=[C:3](/[N:6]([H:11])[H:12])[O:9][H:10])[H:15])([H:16])([H:17])[H:21]>>[C:1]([C:5]1([C:2]([H:18])([H:19])[H:20])[C:3]([N:6]([H:11])[H:12])([O:9][H:10])[C:8]([H:15])=[C:4]1[N:7]([H:13])[H:14])([H:16])([H:17])[H:21],35.478222499991574
MR_353874_1,[C:1]([N:3]([O:6][H:8])[H:10])(/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:13])[O:7][H:9])([H:11])[H:12]>>[C:1](=[C:4]([C:5]([C:2]([H:14])([H:15])[H:16])([N:3]([O:6][H:8])[H:10])[H:13])[O:7][H:9])([H:11])[H:12],64.48503749998537
MR_153702_1,[C:1]([n:3]1[c:6]([H:10])[c:4]([O:7][H:9])[c:5]([C:2]([H:14])([H:15])[H:16])[n:8]1)([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:6](/[C:4]1([O:7][H:9])[C:5]([C:2]([H:14])([H:15])[H:16])=[N:8]1)[H:10])([H:11])([H:12])[H:13],71.33420000002815
